### PR TITLE
feat(Geometry/Convex/ConvexSpace): show that an `AffineMap` `IsAffineMap`

### PR DESCRIPTION
**Pull request by ooovi**
Show that `Convexity.IsAffineMap` generalises `AffineMap`s between affine spaces.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by ooovi** [comment]
I hope did the correct thing with the `local instance`...?

File: Mathlib/Geometry/Convex/ConvexSpace/AffineSpace.lean [hunk 1]
```diff
@@ -158,3 +158,36 @@ theorem convexCombPair_eq_lineMap (s t : R) (hs : 0 ≤ s) (ht : 0 ≤ t)
...
+    · intro h
+      simp only [Finsupp.mem_support_iff, Finsupp.coe_finsetSum, sum_apply,
+        Decidable.not_not, Finsupp.single_apply] at h
+      have hwi : s.weights i = 0 := by
+        by_contra hi
+        have := sum_eq_zero_iff_of_nonneg (fun _ _ ↦ ?_) |>.mp h i (Finsupp.mem_support_iff.mpr hi)
+        · simp at this
+          contradiction
+        · split_ifs <;> simp
+      simp [hwi]
```
Comment (Paul-Lez) [inline Mathlib/Geometry/Convex/ConvexSpace/AffineSpace.lean]:
```suggestion
open Finset AddTorsor in
lemma AffineMap.isAffineMap {V2 P2 : Type*} [AddCommGroup V2] [Module R V2] [AffineSpace V2 P2]
    (f : P →ᵃ[R] P2) : IsAffineMap R f  where
  map_sConvexComb s := by
     rw [sConvexComb_eq_affineCombination, map_affineCombination s.weights.support _root_.id
      s.weights s.total, ←iConvexComb_eq_affineCombination, Function.comp_id, iConvexComb]
```

Comment (Paul-Lez) [reply Mathlib/Geometry/Convex/ConvexSpace/AffineSpace.lean]: One other small comment: here the key fact that you're using about `AffineMap` is that these preserve certain affine combinations and that this is enough to imply that these satisfy `IsAffineMap`, so you could also exact this as the following (though it's not clear to me that this should be done here)

```suggestion
open Finset AddTorsor in
lemma isAffineMap_of_preserves_convex_combinations
    {k : Type u_1} {V P V₂ P₂ : Type*} [PartialOrder k] [Ring k] [IsStrictOrderedRing k]
    [AddCommGroup V] [Module k V] [S : AffineSpace V P]
  [AddCommGroup V₂] [Module k V₂] [AffineSpace V₂ P₂] (f : P → P₂)
  (H : ∀ {ι : Type u_6} (s : Finset ι) (p : ι → P) (w : ι → k),
      ∑ i ∈ s, w i = 1 →
      f ((affineCombination k s p) w) = (affineCombination k s (f ∘ p)) w) :
  IsAffineMap k f where
  map_sConvexComb s := by
    rw [sConvexComb_eq_affineCombination, H s.weights.support _root_.id s.weights s.total,
      ←iConvexComb_eq_affineCombination, Function.comp_id, iConvexComb]

open Finset AddTorsor in
lemma AffineMap.isAffineMap {V2 P2 : Type*} [AddCommGroup V2] [Module R V2] [AffineSpace V2 P2]
    (f : P →ᵃ[R] P2) : IsAffineMap R f := by
    apply isAffineMap_of_preserves_convex_combinations
    grind [map_affineCombination]
```

File: Mathlib/Geometry/Convex/ConvexSpace/AffineSpace.lean [hunk 2]
```diff
@@ -158,3 +158,32 @@ theorem convexCombPair_eq_lineMap (s t : R) (hs : 0 ≤ s) (ht : 0 ≤ t)
...
+
+section
+
+namespace AffineMap
+
+open Finset AddTorsor
+
+attribute [local instance] AddTorsor.toConvexSpace
+
+lemma of_apply_affineCombination
```
Comment (YaelDillies) [inline Mathlib/Geometry/Convex/ConvexSpace/AffineSpace.lean:170]:
```suggestion
lemma of_map_affineCombination
```
is the naming convention when the applied function is a free variable (or the coercion to function of a free variable)

See https://github.com/leanprover-community/leanprover-community.github.io/pull/886

File: Mathlib/Geometry/Convex/ConvexSpace/Defs.lean [hunk 3]
```diff
@@ -323,9 +323,7 @@ abbrev ConvexSpace.mk {M : Type*} (sConvexComb : StdSimplex R M → M)
   ⟨sConvexComb, single, assoc⟩
 
 variable (R) in
-/-- A map between convex spaces is affine if it preserves convex combinations.
-
-TODO: Show that this generalises affine maps between affine spaces, see `AffineMap`. -/
+/-- A map between convex spaces is affine if it preserves convex combinations. -/
```
Comment (YaelDillies) [inline Mathlib/Geometry/Convex/ConvexSpace/Defs.lean:326]:
```suggestion
/-- A map between convex spaces is affine if it preserves convex combinations.

 Note that this generalises the notion of affine maps between affine spaces.
 See `AffineMap.isAffineMap` for one direction.
  TODO: Prove the other direction. -/
```

File: Mathlib/Geometry/Convex/ConvexSpace/AffineSpace.lean [hunk 4]
```diff
@@ -158,3 +158,32 @@ theorem convexCombPair_eq_lineMap (s t : R) (hs : 0 ≤ s) (ht : 0 ≤ t)
...
+    {k : Type u_1} {V P V₂ P₂ : Type*} [PartialOrder k] [Ring k] [IsStrictOrderedRing k]
+    [AddCommGroup V] [Module k V] [S : AffineSpace V P]
+  [AddCommGroup V₂] [Module k V₂] [AffineSpace V₂ P₂] (f : P → P₂)
+  (H : ∀ {ι : Type u_6} (s : Finset ι) (p : ι → P) (w : ι → k),
+      ∑ i ∈ s, w i = 1 →
+      f ((affineCombination k s p) w) = (affineCombination k s (f ∘ p)) w) :
+  IsAffineMap k f where
```
Comment (YaelDillies) [inline Mathlib/Geometry/Convex/ConvexSpace/AffineSpace.lean:177]:
```suggestion
    IsAffineMap k f where
```

File: Mathlib/Geometry/Convex/ConvexSpace/AffineSpace.lean [hunk 5]
```diff
@@ -158,3 +158,32 @@ theorem convexCombPair_eq_lineMap (s t : R) (hs : 0 ≤ s) (ht : 0 ≤ t)
...
+
+open Finset AddTorsor
+
+attribute [local instance] AddTorsor.toConvexSpace
+
+lemma of_apply_affineCombination
+    {k : Type u_1} {V P V₂ P₂ : Type*} [PartialOrder k] [Ring k] [IsStrictOrderedRing k]
+    [AddCommGroup V] [Module k V] [S : AffineSpace V P]
+  [AddCommGroup V₂] [Module k V₂] [AffineSpace V₂ P₂] (f : P → P₂)
+  (H : ∀ {ι : Type u_6} (s : Finset ι) (p : ι → P) (w : ι → k),
```
Comment (Paul-Lez) [inline Mathlib/Geometry/Convex/ConvexSpace/AffineSpace.lean:174]: One small note: I wasn't very satisfied with the universe for `ι` in this line, which is why my first suggestion was
```lean
lemma AffineMap.isAffineMap {V2 P2 : Type*} [AddCommGroup V2] [Module R V2] [AffineSpace V2 P2]
    (f : P →ᵃ[R] P2) : IsAffineMap R f  where
  map_sConvexComb s := by
     rw [sConvexComb_eq_affineCombination, map_affineCombination s.weights.support _root_.id
      s.weights s.total, ←iConvexComb_eq_affineCombination, Function.comp_id, iConvexComb]
```
Perhaps here the correct thing to do would be to just use `Type`?

Comment (ooovi) [reply Mathlib/Geometry/Convex/ConvexSpace/AffineSpace.lean]: I'm sorry, I somehow missed your suggestion. I just went with this since it is very nice. Thanks.

File: Mathlib/Geometry/Convex/ConvexSpace/AffineSpace.lean [hunk 6]
```diff
@@ -191,3 +191,19 @@ theorem convexCombPair_eq_lineMap (s t : R) (hs : 0 ≤ s) (ht : 0 ≤ t)
...
+section
+
+open AddTorsor Convexity
+
+variable [ConvexSpace R P] [IsAffineConvexSpace R V P]
+variable {V₂ P₂ : Type*} [AddCommGroup V₂] [Module R V₂]
+variable [AffineSpace V₂ P₂] [ConvexSpace R P₂] [IsAffineConvexSpace R V₂ P₂]
+
+lemma AffineMap.isAffineMap
+    (f : P →ᵃ[R] P₂) : IsAffineMap R f  where
```
Comment (YaelDillies) [inline Mathlib/Geometry/Convex/ConvexSpace/AffineSpace.lean:204]: nit: we would usually write
```suggestion
lemma AffineMap.isAffineMap (f : P →ᵃ[R] P₂) : IsAffineMap R f  where
```

Comment (YaelDillies) [inline Mathlib/Geometry/Convex/ConvexSpace/AffineSpace.lean:204]: Can we maybe use `P\1` and `P\2` or `P` and P'` instead of `P` and P\2`?

**Review by YaelDillies — APPROVED** [review]
Thanks!

maintainer delegate

File: Mathlib/Geometry/Convex/ConvexSpace/AffineSpace.lean [hunk 7]
```diff
@@ -191,3 +191,19 @@ theorem convexCombPair_eq_lineMap (s t : R) (hs : 0 ≤ s) (ht : 0 ≤ t)
...
 
 end AddTorsor
+
+section
+
+open AddTorsor Convexity
+
+variable [ConvexSpace R P] [IsAffineConvexSpace R V P]
+variable {V₂ P₂ : Type*} [AddCommGroup V₂] [Module R V₂]
+variable [AffineSpace V₂ P₂] [ConvexSpace R P₂] [IsAffineConvexSpace R V₂ P₂]
```
Comment (grunweg) [inline Mathlib/Geometry/Convex/ConvexSpace/AffineSpace.lean:201]:
```suggestion
variable [ConvexSpace R P] [IsAffineConvexSpace R V P]
  {V₂ P₂ : Type*} [AddCommGroup V₂] [Module R V₂]
  [AffineSpace V₂ P₂] [ConvexSpace R P₂] [IsAffineConvexSpace R V₂ P₂]
```

File: Mathlib/Geometry/Convex/ConvexSpace/Defs.lean [hunk 8]
```diff
@@ -479,7 +479,9 @@ abbrev ConvexSpace.mk {X : Type*} (sConvexComb : StdSimplex R X → X)
 variable (R) in
 /-- A map between convex spaces is affine if it preserves convex combinations.
 
-TODO: Show that this generalises affine maps between affine spaces, see `AffineMap`. -/
+ Note that this generalises the notion of affine maps between affine spaces.
+ See `AffineMap.isAffineMap` for one direction.
+  TODO: Prove the other direction. -/
```
Comment (grunweg) [inline Mathlib/Geometry/Convex/ConvexSpace/Defs.lean:484]: This TODO would show up when hovering over the declaration: I think that's a bit too much. How about this?
```suggestion
 See `AffineMap.isAffineMap` for one direction. -/
 -- TODO: Prove the other direction.
```

File: Mathlib/Geometry/Convex/ConvexSpace/AffineSpace.lean [hunk 9]
```diff
@@ -191,3 +191,19 @@ theorem convexCombPair_eq_lineMap (s t : R) (hs : 0 ≤ s) (ht : 0 ≤ t)
...
+
+lemma AffineMap.isAffineMap
+    (f : P →ᵃ[R] P₂) : IsAffineMap R f  where
+  map_sConvexComb s := by
+     rw [sConvexComb_eq_affineCombination, Finset.map_affineCombination s.weights.support _root_.id
+      s.weights s.total, ←iConvexComb_eq_affineCombination, Function.comp_id, iConvexComb]
```
Comment (grunweg) [inline Mathlib/Geometry/Convex/ConvexSpace/AffineSpace.lean:207]:
```suggestion
     rw [sConvexComb_eq_affineCombination,
       Finset.map_affineCombination s.weights.support _root_.id s.weights s.total,
       ←iConvexComb_eq_affineCombination, Function.comp_id, iConvexComb]
```

**Review by grunweg — COMMENTED** [review]
Thanks! I only have minor comments (and agree with Yael's). Please fix these, then this is good to go.
bors delegate

File: Mathlib/Geometry/Convex/ConvexSpace/AffineSpace.lean (hunk 5 above)
Comment (Paul-Lez) [reply Mathlib/Geometry/Convex/ConvexSpace/AffineSpace.lean]: Great!

**Comment by ooovi** [comment]
bors merge

**Comment by ooovi** [comment]
maintainer merge

**Comment by grunweg** [comment]
Sorry, I made a typo (bors delegate+ would have been correct), that's why things didn't work. (And maintainer merge only works if you're a mathlib reviewer.) Let me merge it again:
bors merge
